US04323570
To 128.8 ml acetic acid are added 50.57 ml fuming nitric acid without exceeding 20° C. 57 g (0.375 mole) 2-cyclopropyl-4,6-dihydroxy-pyrimidine are added in portions without exceeding a temperature of 15° C. Then the reaction mixture is stirred for half an hour at 15° C., mixed with ice, and the deposit is washed with lots of water and dried. 69.8 of 2-cyclopropyl-4,6-dihydroxy-5-nitro-pyrimidine is obtained. Melting point 230°-235° C. (decomp.).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 2-cyclopropyl-4,6-dihydroxy-pyrimidine | 0.375 mole, 57 g | C1(CC1)C1=NC(=CC(=N1)O)O | C7H8N2O2
solvent | acetic acid | 128.8 ml | C(C)(=O)O | C2H4O2
product | 2-cyclopropyl-4,6-dihydroxy-5-nitro-pyrimidine | C1(CC1)C1=NC(=C(C(=N1)O)[N+](=O)[O-])O | C7H7N3O4
